US08138187B2
3-Methyl-2-trimethylsilanyl-1H-indole-5-carbonitrile
1-(Trimethylsilyl)propyne (2.23 ml, 1.68 g, 15.0 mmol), 4-amino-3-iodobenzonitrile (3.33 g, 13.65 mmol), lithium chloride (606 mg, 14.3 mmol) and sodium carbonate (4.35 g, 40.95 mmol) were added successively to abs. dimethylformamide (60 ml) under argon. Pd(dppf)Cl2 (1.116 g, 1.365 mmol) was added to this mixture and the reaction mixture was heated at 100° C. with exclusion of moisture for 6 h and then stirred at room temperature for 16 h. For working up of the mixture, water (150 ml) and ethyl acetate (300 ml) was added and the mixture was stirred for 10 min. After separation of the phases, the aqueous phase was extracted with ethyl acetate (3×100 ml). The combined organic phases were washed with saturated sodium chloride solution (3×100 ml), dried and concentrated. The residue was a brown oil (5.5 g) which, apart from 3-methyl-2-trimethylsilanyl-1H-indole-5-carbonitrile, contained traces of the isomer 2-methyl-3-trimethylsilanyl-1H-indole-5-carbonitrile and DMF.

reactant | 1-(Trimethylsilyl)propyne | 15.0 mmol, 2.23 ml, 1.68 g | C[Si](C#CC)(C)C | C6H12Si
reactant | 4-amino-3-iodobenzonitrile | 13.65 mmol, 3.33 g | NC1=C(C=C(C#N)C=C1)I | C7H5IN2
reactant | lithium chloride | 14.3 mmol, 606 mg | [Cl-].[Li+]
reactant | sodium carbonate | 40.95 mmol, 4.35 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | 1.365 mmol, 1.116 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-2-trimethylsilanyl-1H-indole-5-carbonitrile | CC1=C(NC2=CC=C(C=C12)C#N)[Si](C)(C)C | C13H16N2Si
